US04988814
A stirred suspension of 2-chloro-1-methylpyridinium iodide (3.28 g, 12.8 mmol) in toluene (20 mL) was treated under an atmosphere of nitrogen with atropic acid (1.80 g, 12.2 mol) treated with tert-butanol (0.92 mL, 11.8 mmol), treated with triethylamine (3.6 mL, 25.8 mmol), heated under reflux for 2 hours, cooled to room temperature and treated with water (100 mL) and diethyl ether (100 mL). The layers were separated and the aqueous layer extracted with diethyl ether (50 mL). The organic phases were combined, washed with water (100 mL), dried (MgSO4), evaporated in vacuo, and the residue purified by chromatography [silica; hexane-ethyl acetate (20:1)] to give tert-butyl 2-phenylpropenoate (1.32 g) as an oil.

reactant | 2-chloro-1-methylpyridinium iodide | 12.8 mmol, 3.28 g | [I-].ClC1=[N+](C=CC=C1)C
reactant | atropic acid | 12.2 mol, 1.80 g | C(C(=C)C1=CC=CC=C1)(=O)O | C9H8O2
reactant | tert-butanol | 11.8 mmol, 0.92 mL | C(C)(C)(C)O | C4H10O
reactant | triethylamine | 25.8 mmol, 3.6 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | water | 100 mL | O | H2O
product | tert-butyl 2-phenylpropenoate | 1.32 g | C1(=CC=CC=C1)C(C(=O)OC(C)(C)C)=C | C13H16O2
